US07417062B2
Step 1: (S)-2-{[(Naphthalen-2-ylmethyl)-amino]-methyl}-pyrrolidine-1-carboxylic acid tert-butyl ester.
Experimental conditions were analogous to Example 1. 0.27 g (1.76 mmol) of naphthalene-2-carbaldehyde, 0.35 g (1.76 mmol) of (S)-2-aminomethyl-pyrrolidine-1-carboxylic acid tert-butyl ester, were dissolved in 10 mL dichloromethane, and 0.55 g (2.64 mmol) of sodium triacetoxyborohydride was added. The reaction was quenched with aqueous sodium bicarbonate. The residue from the organic layer was purified using flash chromatography (ethyl acetate in hexane), yielded to 350 mg of the free base as colorless oil. LC-MSD, m/z for C21H28N2O2 [M+H]+: 341.2

reactant | naphthalene-2-carbaldehyde | 1.76 mmol, 0.27 g | C1=C(C=CC2=CC=CC=C12)C=O | C11H8O
reactant | (S)-2-aminomethyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.76 mmol, 0.35 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)CN | C10H20N2O2
reactant | sodium triacetoxyborohydride | 2.64 mmol, 0.55 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (S)-2-{[(Naphthalen-2-ylmethyl)-amino]-methyl}-pyrrolidine-1-carboxylic acid tert-butyl ester | 350 mg | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)CNCC1=CC2=CC=CC=C2C=C1 | C21H28N2O2
